US07528147B2
3.3 ml of a 5N aqueous potassium hydroxide solution are added to a solution of 0.31 g of 2-(5,7-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine in 20 ml of methanol. The mixture is heated at around 80° C. for approximately 18 hours. The reaction medium is run into a mixture of 100 ml of ice plus, water, and extracted with three times 75 ml of ethyl acetate. The combined organic phases are washed with 100 ml of water and then with 100 ml of a saturated aqueous sodium chloride solution, dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (13 kPa). The residue is purified by flash chromatography on a silica column [eluent: dichloromethane]. 0.073 g of 2-(5,7-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyridine is obtained in the form of a solid, the characteristics of which are as follows:

reactant | potassium hydroxide | 5N | [OH-].[K+]
reactant | 2-(5,7-dimethoxy-1-methyl-1H-indol-3-yl)-1-(toluene-4-sulfonyl)-1H-pyrrolo[2,3-b]pyridine | 0.31 g | COC=1C=C2C(=CN(C2=C(C1)OC)C)C1=CC=2C(=NC=CC2)N1S(=O)(=O)C1=CC=C(C=C1)C | C25H23N3O4S
reactant | water | O | H2O
solvent | methanol | 20 ml | CO | CH4O
product | 2-(5,7-dimethoxy-1-methyl-1H-indol-3-yl)-1H-pyrrolo[2,3-b]pyridine | 0.073 g | COC=1C=C2C(=CN(C2=C(C1)OC)C)C1=CC=2C(=NC=CC2)N1 | C18H17N3O2
